US04275009
1-[[2-(2-Hydroxyethylamino)ethyl]amino]-4,5,8-trihydroxyanthraquinone
A suspension of 5.44 g. of 1,4,5,8-tetrahydroxy-9,10-anthracenedione [P. G. Marshall, J.C.S., 254 (1937)] in a solution of 2.08 g. of 2-(2-aminoethylamino)ethanol in 50 ml. of N,N,N',N'-tetramethylethylenediamine is stirred and heated under reflux for 17 hours, then allowed to cool. The solid is collected by filtration and washed 3 times with N,N,N',N'-tetramethylethylenediamine, then twice with hexane. The first filtrate and the diamine washings are combined and the solution is allowed to stand for 60 hours as a solid separates. This solid is collected and washed as above to give 0.524 g. of a dark blue solid. This solid is purified by dry column chromatography on deactivated (i.e., air-equilibrated) silica gel by the procedure of B. Loev and M. M. Goodman [Chem. and Ind., 2026 (1967)], eluting with chloroform-methanol (3:1) and monitoring the eluate fractions by thin layer chromatography on silica gel with the same solvent mixture. The cuts which showed only the slower of two purple spots were pooled and evaporated to give 0.42 g. of the product of the Example as a dark blue solid, mp. 196°-198° C.

reactant | 1,4,5,8-tetrahydroxy-9,10-anthracenedione | OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)O | C14H8O6
reactant | 2-(2-aminoethylamino)ethanol | NCCNCCO | C4H12N2O
reactant | N,N,N',N'-tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
product | 1-[[2-(2-Hydroxyethylamino)ethyl]amino]-4,5,8-trihydroxyanthraquinone | OCCNCCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)O | C18H18N2O6
